US05360802
Cyclohexylmagnesium bromide (240 ml of a 2M solution in ether, 0.48 mol) in ether (200 ml) was added dropwise to a solution of 2-methyl-4H-3,1-benzoxazin-4-one (100 g, 0.62 mol) in ether (1100 ml) at -10° C. over 2 h. The mixture was stirred at this temperature for 2 h, then at ambient temperature for 30 min. After cooling to -10° C. the suspension was treated with 2M HCl (600 ml), keeping the temperature below 0° C. After stirring for 15 min the layers were separated, and the ethereal layer washed sequentially with water (500 ml), 5% sodium hydroxide solution (2×500 ml) and finally water (2×500 ml). The organic layer was separated, dried (MgSO4), evaporated in vacuo and chromatographed on silica gel using petrol:ethyl acetate (2:1) to give (2-acetamidophenyl) cyclohexyl methanone (28 g, 24%) as a pale yellow solid. mp 66° C. 1H NMR (CDCl3, 360 MHz) δ 1.25-1.89 (10H, m), 2.23 (3H, s), 3.33 (1H, m), 7.13 (1H, d of t, J=6 and 1 Hz), 7.53 (1H, d of t, J=6 and 1 Hz), 7.92 (1H, d, J=6 Hz), 8.76 (1H,d, J=6 Hz), 11.73 (1H, brs).

reactant | Cyclohexylmagnesium bromide | C1(CCCCC1)[Mg]Br
reactant | 2-methyl-4H-3,1-benzoxazin-4-one | 0.62 mol, 100 g | CC1=NC2=C(C(O1)=O)C=CC=C2 | C9H7NO2
reactant | HCl | 2M, 600 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 1100 ml | CCOCC | C4H10O
product | (2-acetamidophenyl) cyclohexyl methanone | 28 g, 24% | C(C)(=O)NC1=C(C=CC=C1)C(=O)C1CCCCC1 | C15H19NO2
